US07531542B2
4-tert-butyl-N-(2,6-dibromophenyl)benzenecarbothioamide:
4-tert-butyl-N-(2,6-dibromophenyl)benzamide prepared as in Example 18 (1.20 g, 2.92 mmol) was dissolved in toluene (45 mL) and treated with Lawesson's reagent (1.18 g, 2.92 mmol.) The solution was heated to reflux for 2 h and then cooled. The solvent was removed under reduced pressure, and the residue was adsorbed onto silica gel. Elution with 10% to 20% acetone/hexane gave 0.509 g (41%) of product. MS (ESI) m/z 425.952; HPLC Method B, purity 85.7% at 210-370 nm, 11.1 min.; 91.1% at 262 nm, 11.1 min.; HRMS: calcd for C17H17Br2NS+H+, 425.95212; found (ESI, [M+H]+), 425.952.

reactant | 4-tert-butyl-N-(2,6-dibromophenyl)benzamide | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C=CC=C2Br)Br)C=C1 | C17H17Br2NO
reactant | Lawesson's reagent | 2.92 mmol, 1.18 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | 4-tert-butyl-N-(2,6-dibromophenyl)benzenecarbothioamide | 0.509 g, 41% | C(C)(C)(C)C1=CC=C(C=C1)C(NC1=C(C=CC=C1Br)Br)=S | C17H17Br2NS
